US08044090B2
3-(2-Nitrovinyl)-6-methanesulfonyl-1H-indole
Combine 1-dimethylamino-2-nitroethylene (892.1 mg, 7.68 mmol) and TFA (9.0 ml) and stir until dissolved. Add 6-methanesulfonyl-1H-indole (1.5 g, 7.68 mmol) and stir at ambient temperature. After 24 hours, pour the reaction mixture into ice/water, extract with ethyl acetate, then wash ethyl acetate with brine and saturated sodium bicarbonate. Filter, wash, and dry the precipitate to give the title compound as a yellow powder: mp>250° C. MS (ACPI): m/e 267.0 (M+1). Analysis for C11H10N2O4S: Calcd: C, 49.62; H, 3.79; N, 10.52. found: C, 49.86; H, 3.97; N, 10.25.

reactant | 1-dimethylamino-2-nitroethylene | 7.68 mmol, 892.1 mg | CN(C=C[N+](=O)[O-])C | C4H8N2O2
reactant | TFA | 9.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-methanesulfonyl-1H-indole | 7.68 mmol, 1.5 g | CS(=O)(=O)C1=CC=C2C=CNC2=C1 | C9H9NO2S
product | 3-(2-Nitrovinyl)-6-methanesulfonyl-1H-indole | [N+](=O)([O-])C=CC1=CNC2=CC(=CC=C12)S(=O)(=O)C | C11H10N2O4S
